US08013003B2
N-[4-(Hydroxyimino)cyclohexyl]-N-methyl-[2,1,3]-benzoxadiazole-5-carboxamide
N-Methyl-N-(4-oxocyclohexyl)-[2,1,3]-benzoxadiazole-5-carboxamide (0.41 g, 1.5 mmol) was dissolved in chloroform (10 ml), hydroxylamine hydrochloride (0.63 g) and triethylamine (1.6 ml) were added, and the mixture stirred overnight. Evaporation of the solvent and to chromatography of the residue on silica gel, eluting with chloroform/ethyl acetate (3:2), gave a white solid (0.37 g). Mp=197-198° C., NMR (300 MHz, CDCl3) δ 8.49 (s, 1H); 7.93 (d, J=9.0 Hz, 1H); 7.86 (m, 1H); 7.43 (d, J=9.0 Hz, 1H); 4.90-4.70 and 3.80-3.35 (m, 1H); 2.99 and 2.88 (s+s, 3H); 2.80-1.50 ppm (s, 8H).

reactant | N-Methyl-N-(4-oxocyclohexyl)-[2,1,3]-benzoxadiazole-5-carboxamide | 1.5 mmol, 0.41 g | CN(C(=O)C1=CC=2C(=NON2)C=C1)C1CCC(CC1)=O | C14H15N3O3
reactant | hydroxylamine hydrochloride | 0.63 g | Cl.NO
reactant | triethylamine | 1.6 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[4-(Hydroxyimino)cyclohexyl]-N-methyl-[2,1,3]-benzoxadiazole-5-carboxamide | 0.37 g | ON=C1CCC(CC1)N(C(=O)C1=CC=2C(=NON2)C=C1)C | C14H16N4O3
